US04992433
A mixture of 3.56 parts of ethyl 4-[3-(2-chloro-4-methoxyphenoxy)propyl]-1-piperazinecarboxylate monohydrochloride, 3.6 parts of potassium hydroxide and 80 parts of 2-propanol was stirred overnight at reflux temperature. After evaporation, the residue was taken up in water and the product was extracted with dichloromethane. The extract was dried, filtered and evaporated. The residue was converted into the hydrochloride salt in 2-propanol. The salt was filtered off and crystallized from 2-propanol. The product was filtered off and dried, yielding 1.33 parts (37.1%) of 1-[3-(2-chloro-4-methoxyphenoxy)propyl]piperazine dihydrochloride; mp. 190° C. (int. 13).

reactant | ethyl 4-[3-(2-chloro-4-methoxyphenoxy)propyl]-1-piperazinecarboxylate monohydrochloride | Cl.ClC1=C(OCCCN2CCN(CC2)C(=O)OCC)C=CC(=C1)OC
reactant | potassium hydroxide | [OH-].[K+]
solvent | 2-propanol | CC(C)O | C3H8O
product | 1-[3-(2-chloro-4-methoxyphenoxy)propyl]piperazine dihydrochloride | 37.1% | Cl.Cl.ClC1=C(OCCCN2CCNCC2)C=CC(=C1)OC | InChI=1S/C14H21ClN2O2.2ClH/c1-18-12-3-4-14(13(15)11-12)19-10-2-7-17-8-5-16-6-9-17;;/h3-4,11,16H,2,5-10H2,1H3;2*1H
